US04468403
A solution of 1,4-dimethyl-1,2-dihydropyridine (9.69 g, 65 mmol) in ether (10 ml) was added slowly with stirring at 0° C. to a solution of cyanogen azide (5.1 g, 75 mmol). The reaction mixture was allowed to return to 25° C. and the solvent was removed in vacuo to give a reddish-brown product which was partitioned between 200 ml methylene chloride-water (1:1 v/v). The methylene chloride extract was dried (MgSo4) and the solvent removed in vacuo to give 7-cyano-2,5-dimethyl-2,7-diazabicyclo [4.1.0]hept-4-ene (7.39 g, 76.2%) as a tan solid with mp 117° C. 10% palladium on charcoal (400 mg) was added to a solution of 7-cyano-2,5-dimethyl-2,7-diazabicyclo[4.1.0]hept-4-ene (2.23 g, 15 mmol) in 50 ml methanol and the reduction was effected using 10% palladium on charcoal and hydrogen gas at 35 psi for 24 hours. Filtration and then removal of the solvent in vacuo gave 1,4-dimethylpiperidylidene-2-cyanamide as a white solid (2.26 g, 99.8%) with mp 94° C; IR (KBr) 2180 (C≡N) and 1598 cm-` (C=N); NMR (CDCl3) 3.44 (m, 2H, H-6), 3.05 (s, 3H, N--Me), 2.9 (m, 1H, H-3), 2.35 (m, 1H, H-3), 2.15-1.2 (m, 3H, H-4, H-5), 1.04 (d, J=5Hz, 3H, C-4 Me). Mass spectra (70 ev): Mass calc'd for C8H13N3 : 151,1109; found: 151.1107.

reactant | 1,4-dimethyl-1,2-dihydropyridine | 65 mmol, 9.69 g | CN1CC=C(C=C1)C | C7H11N
reactant | cyanogen azide | 75 mmol, 5.1 g | N#CN=[N+]=[N-] | CN4
solvent | ether | 10 ml | CCOCC | C4H10O
product | 7-cyano-2,5-dimethyl-2,7-diazabicyclo [4.1.0]hept-4-ene | 7.39 g, 76.2% | C(#N)N1C2C(=CCN(C12)C)C | C8H11N3
